US07244729B2
N-{4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-2-piperidin-1-yl-acetamide
A mixture of 80 mg (0.19 mmol) 2-chloro-N-{4-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide in 1.5 ml n-butanol is treated with 47 μl (0.48 mmol) piperidine and then heated to 100° C. for 2 h. The clear solution is cooled and the solvent evaporated. The residue is purified with flash chromatography using a mixture of ethyl acetate/methanol with increasing concentrations of methanol starting with 100:2.5 and ending with 10:1. The title compound is obtained as a colorless powder; m.p. 194-196° C.; MS-ES+: (M+H)+=469.

reactant | 2-chloro-N-{4-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide | 0.19 mmol, 80 mg | ClCC(=O)NCC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C23H22ClN5O
reactant | piperidine | 0.48 mmol, 47 μl | N1CCCCC1 | C5H11N
solvent | n-butanol | 1.5 ml | C(CCC)O | C4H10O
product | N-{4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-2-piperidin-1-yl-acetamide | C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(CNC(CN1CCCCC1)=O)C=C2 | C28H32N6O
